US07799894B2
(3) Synthesis of 2,3-dihydroxy-5-aminoquinoxaline
2.00 g of 2,3-dihydroxy-5-nitroquinoxaline was dissolved in 100 g of a 1:1 methanol and dioxane solvent, after which the reaction system was well purged with argon, followed by further addition of 1.00 g of 5% Pd/C (hydrous). Thereafter, the system was purged with hydrogen, followed by reaction at room temperature for 20 hours. After completion of the reaction, the reaction product was dispersed in a solution of 6.00 g of potassium carbonate in 130 ml of water and then dissolved therein. 35% hydrochloric acid was gradually added to the solution obtained after filtration thereby obtaining a precipitate.

reactant | 2,3-dihydroxy-5-nitroquinoxaline | 2.00 g | OC1=NC2=CC=CC(=C2N=C1O)[N+](=O)[O-] | C8H5N3O4
reactant | potassium carbonate | 6.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 g | CO | CH4O
solvent | water | 130 ml | O | H2O
product | 2,3-dihydroxy-5-aminoquinoxaline | OC1=NC2=CC=CC(=C2N=C1O)N | C8H7N3O2
